US04625036
2-(2-Fluoro-4-trifluoromethylphenyl)-2-(1,2,4-triazole-1-ylmethyl)oxirane (0.4 g.) and 3-(4-fluorophenyl)-1,2,4-triazole (0.3 g.) were added to a solution of sodium hydride (0.1 g. of a 50% dispersion in oil) in tert-butyl alcohol (10 ml.) and the mixture was heated at 80° for 16 hours. The reaction mixture was evaporated to dryness and the residual gum was partitioned between ethyl acetate and water. The organic layer was separated, dried and evaporated to dryness. The residual gum was chromatographed on a K60 silica column, eluting successively with chloroform/petroleum ether (b.p. 60°-80° C.) 60/40 v/v, 70/30 v/v and 80/20 v/v, to give 2-[3-(4-fluorophenyl)-1,2,4-triazole-1-yl]-1-(2-fluoro-4-trifluoromethylphenyl)-1-(1,2,4-triazole-1-ylmethyl)-ethanol, m.p. 96°-100°.

reactant | 2-(2-Fluoro-4-trifluoromethylphenyl)-2-(1,2,4-triazole-1-ylmethyl)oxirane | 0.4 g | FC1=C(C=CC(=C1)C(F)(F)F)C1(OC1)CN1N=CN=C1 | C12H9F4N3O
reactant | 3-(4-fluorophenyl)-1,2,4-triazole | 0.3 g | FC1=CC=C(C=C1)C1=NNC=N1 | C8H6FN3
reactant | sodium hydride | [H-].[Na+]
solvent | tert-butyl alcohol | 10 ml | C(C)(C)(C)O | C4H10O
product | 2-[3-(4-fluorophenyl)-1,2,4-triazole-1-yl]-1-(2-fluoro-4-trifluoromethylphenyl)-1-(1,2,4-triazole-1-ylmethyl)-ethanol | FC1=CC=C(C=C1)C1=NN(C=N1)CC(O)(CN1N=CN=C1)C1=C(C=C(C=C1)C(F)(F)F)F | C20H15F5N6O
